US05336482
1-Ethyl-3-hydroxy-2-methylpyrid-4-one was prepared by dissolving 10.0 g of 3-hydroxy-2-methylpyr-4-one (Maltol) and 3 equivalents of ethylamine (70%) in 200 ml of water. The reaction mixture was refluxed for 10 hours at which time it was black in color. Decolorizing charcoal was then added to the mixture and it was stirred an additional 0.5 hours. The mixture was then filtered through a fine frit and the filtrate was concentrated in vacuo to remove the water and excess amine. The resulting brown crystals were recrystallized using hot methanol which yielded white needles of pure product. m.p. 204°-205 ° C.

reactant | 3-hydroxy-2-methylpyr-4-one | 10.0 g | OC1=C(OC=CC1=O)C | C6H6O3
reactant | ethylamine | 3 equivalents | C(C)N | C2H7N
reactant | charcoal | C | CH4
solvent | water | 200 ml | O | H2O
product | 1-Ethyl-3-hydroxy-2-methylpyrid-4-one | C(C)N1C(=C(C(C=C1)=O)O)C | C8H11NO2
